US04277470
(c) 5'-Methylthio-3-phenyl-spiro[bicyclo[2.2.1]-hept-5-ene 2,2'-5-pyrroline] hydriodide
6 mmoles of 3-phenyl-spiro[bicyclo[2.2.1]-hept-5-ene-2,2'-pyrrolidine]-5'-thione are dissolved in 30 ml of acetone, 1 ml of methyl iodide is added and the mixture is refluxed for 10 minutes. After cooling, the precipitate is filtered off. The crystalline compound, which is pure according to a thin layer chromatogram, is further processed immediately.

reactant | 3-phenyl-spiro[bicyclo[2.2.1]-hept-5-ene-2,2'-pyrrolidine]-5'-thione | 6 mmoles | C1(=CC=CC=C1)C1C2C=CC(C2)C12NC(CC2)=S | C16H17NS
reactant | methyl iodide | 1 ml | CI | CH3I
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 5'-Methylthio-3-phenyl-spiro[bicyclo[2.2.1]-hept-5-ene 2,2'-5-pyrroline] hydriodide | I.CSC=1CCC2(N1)C1C=CC(C2C2=CC=CC=C2)C1 | InChI=1S/C17H19NS.HI/c1-19-15-9-10-17(18-15)14-8-7-13(11-14)16(17)12-5-3-2-4-6-12;/h2-8,13-14,16H,9-11H2,1H3;1H
